US05468742
1.17 g of ethyl 1-(2,4-difluorophenyl)-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate are refluxed for 1 hour in a mixture of 9 ml of glacial acetic acid, 0.75 ml of water and 0.2 ml of concentrated sulphuric acid. The solid which has crystallised out at room temperature is filtered off with suction and dried. 0.98 g of 1-(2,4-difluorophenyl)-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid is obtained (90% of theory).

reactant | ethyl 1-(2,4-difluorophenyl)-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 1.17 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)C#C)F)F)=O)C(=O)OCC | C20H11F4NO3
reactant | water | 0.75 ml | O | H2O
reactant | sulphuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
product | 1-(2,4-difluorophenyl)-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.98 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)C#C)F)F)=O)C(=O)O | C18H7F4NO3
